### PR TITLE
feat(Algebra/Order/Floor): floor-of-sum dichotomy via fractional parts

### PR DESCRIPTION
**Pull request by stalex444**
This PR adds four lemmas  in Mathlib/Algebra/Order/Floor/Ring.lean, placed in the fractional-part section, complementing the existing one-sided bounds le_floor_add and le_floor_add_floor.

Here are the lemmas:
 
* floor_add_eq — writes ⌊a + b⌋ exactly as ⌊a⌋ + ⌊b⌋ + ⌊fract a + fract b⌋
* floor_add_eq_add_iff — the floors add exactly ⟺ the fractional parts sum below 1
* floor_add_eq_add_add_one_iff — the +1 case ⟺ the fractional parts sum to at least 1
* floor_add_eq_or — the dichotomy: it's always one or the other

The library has the two inequalities but not the exact case analysis, and this closes that small gap. In addition, these are the lemmas for the mechanical/Beatty-word development proposed here --https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Sturmian.20.28mechanical.29.20words/near/610836902.

Claude helped draft the Lean code; I reviewed the code, built the module locally, and it compiled.

---

I'm flexible on the lemma names should reviewers prefer different forms 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by stalex444** [comment]
LLM-generated

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 1]
```diff
@@ -393,6 +393,59 @@ lemma fract_pos : 0 < fract a ↔ a ≠ ⌊a⌋ :=
...
   sub_lt_comm.1 <| sub_one_lt_floor _
 
+/-- Decomposition of the floor of a sum: `⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + ⌊fract a + fract b⌋`. -/
+theorem floor_add_eq (a b : R) : ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + ⌊fract a + fract b⌋ := by
+  conv_lhs => rw [← floor_add_fract a, ← floor_add_fract b]
+  rw [add_add_add_comm, ← Int.cast_add, floor_intCast_add]
+
+/-- The floor of a sum is the sum of the floors iff the fractional parts sum to less
+than one. -/
+theorem floor_add_eq_add_iff : ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ↔ fract a + fract b < 1 := by
```
Comment (BoltonBailey) [inline Mathlib/Algebra/Order/Floor/Ring.lean:402]: Here are some shorter proofs.

```
/-- The floor of a sum is the sum of the floors iff the fractional parts sum to less
than one. -/
theorem floor_add_eq_add_iff : ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ↔ fract a + fract b < 1 := by
  rw [floor_add_eq, add_eq_left, floor_eq_zero_iff, mem_Ico, and_iff_right_iff_imp]
  intro _
  exact add_nonneg (fract_nonneg a) (fract_nonneg b)

/-- The floor of a sum exceeds the sum of the floors by one iff the fractional parts
sum to at least one. -/
theorem floor_add_eq_add_add_one_iff :
    ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + 1 ↔ 1 ≤ fract a + fract b := by
  rw [floor_add_eq, add_right_inj, floor_eq_iff, cast_one, and_iff_left_iff_imp]
  intro _
  exact add_lt_add_of_lt_of_lt (fract_lt_one a) (fract_lt_one b)

/-- **Floor-additivity dichotomy**: `⌊a + b⌋` is either `⌊a⌋ + ⌊b⌋` or `⌊a⌋ + ⌊b⌋ + 1`. -/
theorem floor_add_eq_or (a b : R) :
    ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ∨ ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + 1 := by
  by_cases h : fract a + fract b < 1
  · grind [floor_add_eq_add_iff]
  · grind [floor_add_eq_add_add_one_iff]
```

I might also say that the docstrings don't add much here and could be removed, but maybe that's a matter of taste.

**Review by BoltonBailey — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Order/Floor/Ring.lean (hunk 1 above)
Comment (stalex444) [reply Mathlib/Algebra/Order/Floor/Ring.lean:402]: Hi, the shorter proofs are cleaner and I have applied them. I also shortened the doc strings and pushed. Thank you.

**Review by BoltonBailey — APPROVED** [review]

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 2]
```diff
@@ -393,6 +393,31 @@ lemma fract_pos : 0 < fract a ↔ a ≠ ⌊a⌋ :=
...
+  rw [floor_add_eq, add_right_inj, floor_eq_iff, cast_one, and_iff_left_iff_imp]
+  intro _
+  exact add_lt_add_of_lt_of_lt (fract_lt_one a) (fract_lt_one b)
+
+/-- **Floor-additivity dichotomy**: `⌊a + b⌋` is either `⌊a⌋ + ⌊b⌋` or `⌊a⌋ + ⌊b⌋ + 1`. -/
+theorem floor_add_eq_or (a b : R) :
+    ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ∨ ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + 1 := by
+  by_cases h : fract a + fract b < 1
+  · grind [floor_add_eq_add_iff]
+  · grind [floor_add_eq_add_add_one_iff]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Floor/Ring.lean]:
```suggestion
  grind [floor_add_eq_add_add_one_iff, floor_add_eq_add_iff]
```

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 3]
```diff
@@ -393,6 +393,31 @@ lemma fract_pos : 0 < fract a ↔ a ≠ ⌊a⌋ :=
...
+  rw [floor_add_eq, add_eq_left, floor_eq_zero_iff, mem_Ico, and_iff_right_iff_imp]
+  intro _
+  exact add_nonneg (fract_nonneg a) (fract_nonneg b)
+
+/-- The floor of a sum overshoots by one exactly when the fractional parts sum to at least one. -/
+theorem floor_add_eq_add_add_one_iff :
+    ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + 1 ↔ 1 ≤ fract a + fract b := by
+  rw [floor_add_eq, add_right_inj, floor_eq_iff, cast_one, and_iff_left_iff_imp]
+  intro _
+  exact add_lt_add_of_lt_of_lt (fract_lt_one a) (fract_lt_one b)
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Floor/Ring.lean]:
```suggestion
  exact fun _ ↦ add_lt_add_of_lt_of_lt (fract_lt_one a) (fract_lt_one b)
```

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 4]
```diff
@@ -393,6 +393,31 @@ lemma fract_pos : 0 < fract a ↔ a ≠ ⌊a⌋ :=
...
+/-- Decomposition of the floor of a sum: `⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + ⌊fract a + fract b⌋`. -/
+theorem floor_add_eq (a b : R) : ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + ⌊fract a + fract b⌋ := by
+  conv_lhs => rw [← floor_add_fract a, ← floor_add_fract b]
+  rw [add_add_add_comm, ← Int.cast_add, floor_intCast_add]
+
+/-- The floors add exactly when the fractional parts sum to less than one. -/
+theorem floor_add_eq_add_iff : ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ↔ fract a + fract b < 1 := by
+  rw [floor_add_eq, add_eq_left, floor_eq_zero_iff, mem_Ico, and_iff_right_iff_imp]
+  intro _
+  exact add_nonneg (fract_nonneg a) (fract_nonneg b)
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Floor/Ring.lean]:
```suggestion
  exact fun _ ↦ add_nonneg (fract_nonneg a) (fract_nonneg b)
```

**Review by themathqueen — COMMENTED** [review]
can you also add some of these for `fract`, like `fract (fract a + fract b) = fract (a + b)` for example?

**Comment by themathqueen** [comment]
I think you need to merge master to resolve the build error. When you're ready for another review, please comment `-awaiting-author` :).
Also, please "resolve conversation" when you think you have addressed the comments.

**Comment by stalex444** [comment]
-awaiting-author

**Comment by stalex444** [comment]
Quick update on PR #41861
<https://github.com/leanprover-community/mathlib4/pull/41861>: I’ve
incorporated the suggested proof simplifications, added the analogous
fractional-part lemmas, and merged master. All CI checks are green, the
addressed review conversations are resolved, and awaiting-author has been
removed.

The PR provides the exact floor-of-sum decomposition and the two cases
determined by whether the fractional parts sum to less than 1, together
with the corresponding fract results. These support the
mechanical/Beatty-word development discussed.

Thanks for the helpful feedback! I’d appreciate another look when someone
has time.

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 5]
```diff
@@ -393,6 +393,55 @@ lemma fract_pos : 0 < fract a ↔ a ≠ ⌊a⌋ :=
...
+    ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ ∨ ⌊a + b⌋ = ⌊a⌋ + ⌊b⌋ + 1 := by
+  grind [floor_add_eq_add_iff, floor_add_eq_add_add_one_iff]
+
+/-- Decomposition of the fractional part of a sum:
+`fract (a + b) = fract a + fract b - ⌊fract a + fract b⌋`. -/
+theorem fract_add_eq (a b : R) :
+    fract (a + b) = fract a + fract b - ⌊fract a + fract b⌋ := by
+  simp only [fract, floor_add_eq a b]
+  push_cast
+  abel
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Floor/Ring.lean:423]: if you move all the `fract` stuff down a bit, you can golf this

```suggestion
  rw [← fract_fract_add_fract, self_sub_floor]
```
